C1 (net57 net20) C=0.7E-5
T2 (net58 net24 net24 0) nfet L=8.94E-6 W=9.81E-6
T3 (net28 net7 net7 0) nfet L=4.67E-6 W=8.25E-6
T4 ( net35 net35 0 0)  nfet  L=6.71E-6 W=3.45E-6
T5 ( net55 net35 0 0)  nfet  L=6.71E-6 W=3.45E-6
R6 ( net55 net57)  R=5.9E1
T7 (net34 vdd! vdd! 0) pfet L=3.59E-6 W=2.80E-6
C8 (net56 net19) C=7.9E-11
T9 (net22 net13 net13 0) pfet L=3.20E-6 W=9.73E-6
T10 (net2 net52 net52 0) pfet L=6.29E-6 W=6.42E-6
T11 (vdd! net26 net26 0) nfet L=5.85E-6 W=3.08E-6
C12 (net31 net10) C=5.9E-12
C13 (0 vdd!) C=1.2E-12
C14 (net5 net35) C=6.2E-13
T15 (net24 net50 net50 0) pfet L=5.06E-6 W=0.23E-6
R16 (net34 net59) R=2.9E3
C17 (net12 net9) C=3.4E-5
T18 (net21 vdd! vdd! 0) pfet L=4.26E-6 W=3.21E-6
T19 (net15 net36 net36 0) nfet L=5.75E-6 W=0.31E-6
T20 (vdd! net31 net31 0) pfet L=6.85E-6 W=0.37E-6
T21 (net8 net40 net40 0) pfet L=6.29E-6 W=3.83E-6
R22 (net8 net9) R=9.6E3
T23 (net27 net51 net51 0) nfet L=4.14E-6 W=0.30E-6
R24 (net4 net6) R=3.0E3
C25 (net30 net26) C=1.7E-9
R26 (net18 net10) R=3.2E0
T27 (net41 net17 net17 0) nfet L=2.91E-6 W=5.99E-6
T28 (net36 net7 net7 0) nfet L=9.63E-6 W=0.17E-6
T29 (net13 0 0 0) nfet L=8.29E-6 W=8.22E-6
T30 (net47 net10 net10 0) pfet L=3.77E-6 W=7.17E-6
T31 (net21 vdd! vdd! 0) nfet L=2.33E-6 W=6.07E-6
T32 (0 net37 net37 0) pfet L=3.76E-6 W=7.39E-6
R33 (net48 net23) R=9.8E2
T34 (net53 net53 net53 0) nfet L=4.37E-6 W=6.48E-6
T35 (net54 net27 net27 0) nfet L=9.28E-6 W=7.22E-6
T36 (net13 net36 net36 0) nfet L=9.03E-6 W=8.62E-6
T37 (net20 net56 net56 0) nfet L=4.08E-6 W=1.25E-6
C38 (net33 net23) C=3.9E-8
T39 (net50 net20 net20 0) nfet L=3.90E-6 W=8.32E-6
T40 (net12 net27 net27 0) pfet L=1.45E-6 W=5.92E-6
T41 (net27 net56 net56 0) nfet L=0.84E-6 W=8.10E-6
R42 (net19 net26) R=4.1E6
R43 (net18 net34) R=3.0E6
T44 (net17 net38 net38 0) pfet L=8.80E-6 W=5.48E-6
T45 (net40 net43 net43 0) pfet L=4.84E-6 W=2.86E-6
R46 (net5 net57) R=9.2E1
C47 (net16 net51) C=1.9E-11
T48 (net47 net42 net42 0) pfet L=5.73E-6 W=3.33E-6
R49 (net58 net7) R=7.5E6
C50 (net56 net51) C=0.2E-12
R51 (net19 net36) R=1.7E3
T52 (net35 net54 net54 0) pfet L=2.00E-6 W=0.81E-6
C53 (net25 net16) C=5.4E-8
C54 (net57 net5) C=7.9E-5
T55 (vdd! net28 net28 0) nfet L=6.56E-6 W=5.47E-6
T56 (net8 net59 net59 0) nfet L=4.75E-6 W=2.89E-6
T57 (net18 net30 net30 0) nfet L=4.89E-6 W=9.60E-6
C58 (net45 net18) C=8.3E-8
T59 (0 net19 net19 0) pfet L=4.55E-6 W=5.49E-6
C60 (net59 net36) C=2.0E-9
C61 (net16 net51) C=3.6E-7
T62 (net24 net28 net28 0) nfet L=0.18E-6 W=2.18E-6
C63 (0 net52) C=4.0E-7
C64 (net34 net37) C=4.1E-13
R65 (net6 0) R=9.5E4
R66 (net44 net48) R=3.7E5
R67 (net12 net58) R=0.4E5
C68 (net51 net33) C=3.9E-9
T69 (net4 0 0 0) pfet L=9.66E-6 W=2.93E-6
R70 (net30 net17) R=2.6E2
R71 (net37 net4) R=3.2E3
T72 (net10 0 0 0) pfet L=3.84E-6 W=6.33E-6
T73 (net23 net14 net14 0) pfet L=9.02E-6 W=9.03E-6
C74 (net13 net21) C=1.1E-9
T75 (net25 net9 net9 0) nfet L=6.96E-6 W=4.79E-6
T76 (net28 net48 net48 0) nfet L=0.34E-6 W=1.87E-6
R77 (net50 0) R=6.9E0
C78 (net4 net28) C=9.7E-12
T79 (net31 net53 net53 0) nfet L=9.86E-6 W=0.49E-6
T80 (net24 net30 net30 0) pfet L=1.19E-6 W=4.51E-6
T81 (net2 net45 net45 0) nfet L=4.91E-6 W=5.15E-6
T82 (net44 net5 net5 0) nfet L=7.84E-6 W=6.96E-6
T83 (net17 net45 net45 0) nfet L=8.65E-6 W=7.61E-6
T84 (net12 net31 net31 0) nfet L=1.72E-6 W=9.67E-6
T85 (net56 net49 net49 0) nfet L=6.36E-6 W=3.31E-6
C86 (net32 net56) C=1.2E-10
C87 (net29 net54) C=5.5E-11
C88 (net46 net45) C=1.6E-6
C89 (net26 net33) C=4.3E-5
T90 (net48 net33 net33 0) pfet L=0.14E-6 W=9.08E-6
C91 (net41 net47) C=9.0E-6
R92 (net12 net45) R=8.3E2
T93 (net42 net27 net27 0) pfet L=8.05E-6 W=5.47E-6
C94 (net22 net1) C=5.1E-12
T95 (vdd! net23 net23 0) nfet L=2.46E-6 W=5.21E-6
R96 (net11 net31) R=6.5E4
T97 (net51 net54 net54 0) pfet L=2.39E-6 W=9.19E-6
C98 (net35 net53) C=0.4E-12
C99 (net59 net4) C=0.1E-12
T100 (net52 net40 net40 0) pfet L=1.83E-6 W=5.50E-6
T101 (net7 net15 net15 0) nfet L=2.44E-6 W=3.15E-6
R102 (net10 net58) R=3.4E0
T103 (0 net54 net54 0) pfet L=9.06E-6 W=3.95E-6
C104 (net15 net46) C=8.3E-9
T105 (net1 net44 net44 0) pfet L=1.04E-6 W=8.55E-6
C106 (vdd! net17) C=5.7E-9
T107 (net7 net14 net14 0) nfet L=7.89E-6 W=5.46E-6
R108 (net52 net31) R=8.5E6
T109 (net6 net51 net51 0) nfet L=6.24E-6 W=4.15E-6
C110 (net4 net7) C=8.8E-12
T111 (net45 0 0 0) nfet L=7.54E-6 W=3.65E-6
R112 (net9 net50) R=9.4E4
R113 (net19 net58) R=1.8E2
T114 (0 net13 net13 0) nfet L=6.39E-6 W=1.84E-6
R115 (net39 net50) R=1.3E3
C116 (net52 net35) C=2.2E-8
R117 (net23 net3) R=8.8E3
T118 (net48 net41 net41 0) pfet L=1.11E-6 W=3.59E-6
C119 (vdd! net28) C=2.8E-7
C120 (net9 net1) C=5.0E-11
R121 (net58 net15) R=2.8E6
T122 (net57 net50 net50 0) pfet L=5.58E-6 W=0.48E-6
T123 (net34 net52 net52 0) nfet L=1.39E-6 W=3.64E-6
T124 (net7 net19 net19 0) pfet L=4.28E-6 W=9.53E-6
T125 (vdd! net42 net42 0) pfet L=6.25E-6 W=0.21E-6
T126 (net27 net30 net30 0) nfet L=6.88E-6 W=0.97E-6
R127 (0 net35) R=3.0E2
T128 (net1 net16 net16 0) pfet L=9.68E-6 W=8.37E-6
T129 (net33 net9 net9 0) pfet L=2.33E-6 W=3.78E-6
C130 (net7 net20) C=8.1E-14
C131 (vdd! net34) C=5.1E-10
C132 (0 net45) C=6.3E-9
T133 (net47 net20 net20 0) nfet L=2.27E-6 W=8.12E-6
C134 (net40 net15) C=1.6E-13
T135 (net3 0 0 0) nfet L=4.93E-6 W=5.77E-6
T136 (net20 net15 net15 0) nfet L=0.57E-6 W=3.45E-6
T137 (net57 net19 net19 0) pfet L=8.18E-6 W=3.25E-6
C138 (net44 net14) C=10.0E-6
C139 (vdd! net59) C=9.6E-14
T140 (net3 net21 net21 0) nfet L=4.12E-6 W=3.86E-6
C141 (net53 net46) C=8.5E-6
C142 (net9 net12) C=6.1E-5
T143 (net14 vdd! vdd! 0) nfet L=7.34E-6 W=3.09E-6
C144 (net47 net5) C=6.9E-8
T145 (vdd! net45 net45 0) nfet L=5.71E-6 W=1.61E-6
R146 (net26 net53) R=0.4E2
T147 (net51 net18 net18 0) nfet L=8.79E-6 W=0.23E-6
C148 (vdd! net5) C=4.7E-9
T149 (net12 net27 net27 0) pfet L=5.79E-6 W=0.19E-6
C150 (net49 net24) C=1.2E-6
T151 (net1 net47 net47 0) pfet L=8.18E-6 W=8.32E-6
R152 (net24 net48) R=1.9E5
T153 (net18 net8 net8 0) pfet L=5.35E-6 W=7.76E-6
T154 (net58 net26 net26 0) pfet L=6.01E-6 W=4.57E-6
R155 (net21 0) R=2.9E3
C156 (net21 net25) C=1.8E-10
T157 (net49 net14 net14 0) nfet L=0.47E-6 W=9.54E-6
T158 (net4 net2 net2 0) pfet L=7.58E-6 W=3.46E-6
C159 (net31 net13) C=1.0E-9
R160 (net8 net25) R=2.5E6
C161 (net10 vdd!) C=2.3E-13
C162 (net40 net50) C=5.7E-12
C163 (net25 net42) C=3.5E-11
T164 (net15 net22 net22 0) nfet L=8.88E-6 W=6.00E-6
T165 (net22 net24 net24 0) nfet L=9.56E-6 W=9.32E-6
T166 (vdd! net57 net57 0) nfet L=4.23E-6 W=7.64E-6
C167 (net2 net49) C=3.8E-13
T168 (net27 vdd! vdd! 0) pfet L=9.95E-6 W=1.32E-6
C169 (net27 net1) C=7.5E-7
T170 (0 net51 net51 0) pfet L=2.79E-6 W=3.73E-6
T171 (net34 net53 net53 0) nfet L=7.38E-6 W=0.22E-6
R172 (vdd! 0) R=9.8E0
T173 (net11 net10 net10 0) nfet L=7.65E-6 W=6.31E-6
C174 (net54 vdd!) C=3.8E-12
R175 (net33 net54) R=7.7E1
R176 (0 net11) R=5.2E4
R177 (net32 net13) R=8.4E0
R178 (net7 net29) R=6.6E4
R179 (net17 0) R=4.2E2
C180 (net57 net9) C=5.8E-10
T181 (net44 net3 net3 0) pfet L=5.36E-6 W=4.24E-6
T182 (net57 net14 net14 0) nfet L=2.38E-6 W=1.86E-6
T183 (net57 net31 net31 0) pfet L=3.27E-6 W=9.37E-6
T184 (net21 net29 net29 0) pfet L=8.01E-6 W=1.15E-6
T185 (vdd! net53 net53 0) nfet L=6.28E-6 W=9.10E-6
R186 (net25 net19) R=7.0E6
R187 (net52 net15) R=8.9E5
T188 (net46 net28 net28 0) nfet L=3.40E-6 W=0.76E-6
T189 (0 net8 net8 0) nfet L=7.47E-6 W=0.91E-6
R190 (net2 vdd!) R=8.0E1
T191 (net44 net58 net58 0) nfet L=0.66E-6 W=4.32E-6
R192 (net18 net31) R=1.6E1
T193 (net2 net1 net1 0) pfet L=1.50E-6 W=5.60E-6
R194 (net39 net16) R=8.0E1
R195 (net12 net38) R=2.8E0
C196 (net54 net25) C=3.7E-8
T197 (net40 net6 net6 0) nfet L=6.12E-6 W=2.92E-6
T198 (net18 vdd! vdd! 0) pfet L=3.83E-6 W=8.61E-6
C199 (net37 net2) C=8.0E-13
T200 (net38 net41 net41 0) nfet L=3.09E-6 W=8.76E-6
R201 (net59 0) R=9.1E1
C202 (net47 vdd!) C=4.4E-7
R203 (net29 net10) R=0.8E1
C204 (net32 net39) C=7.9E-5
C205 (net4 net42) C=7.8E-9
T206 (net22 vdd! vdd! 0) nfet L=9.39E-6 W=8.49E-6
C207 (net11 net47) C=2.4E-12
T208 (net41 net50 net50 0) nfet L=5.51E-6 W=3.49E-6
T209 (net20 net11 net11 0) pfet L=5.39E-6 W=6.88E-6
C210 (net45 net47) C=2.8E-6
T211 (0 net40 net40 0) pfet L=3.77E-6 W=6.05E-6
R212 (net4 net31) R=4.1E6
C213 (net25 net26) C=8.1E-12
T214 (net1 net36 net36 0) pfet L=6.17E-6 W=6.52E-6
T215 (net12 net26 net26 0) pfet L=9.31E-6 W=3.91E-6
C216 (net50 net39) C=9.3E-7
T217 (net3 net31 net31 0) nfet L=6.66E-6 W=2.29E-6
T218 (net7 net36 net36 0) nfet L=1.10E-6 W=9.67E-6
C219 (net42 net3) C=2.8E-14
C220 (vdd! net3) C=1.8E-14
R221 (net28 net18) R=6.6E5
T222 (net21 net11 net11 0) pfet L=7.03E-6 W=4.16E-6
R223 (net46 net13) R=0.8E2
T224 (0 net54 net54 0) pfet L=6.06E-6 W=9.38E-6
R225 (net47 net59) R=6.1E5
T226 (net44 net46 net46 0) nfet L=4.67E-6 W=1.59E-6
C227 (vdd! net41) C=3.6E-6
T228 (0 net33 net33 0) nfet L=5.02E-6 W=0.67E-6
T229 (net40 net19 net19 0) nfet L=2.98E-6 W=8.39E-6
C230 (net58 net12) C=8.0E-10
R231 (0 net22) R=0.8E2
R232 (net36 net40) R=1.3E4
C233 (net17 net21) C=6.3E-14
R234 (net31 vdd!) R=2.3E5
C235 (net40 0) C=2.6E-7
T236 (net36 net21 net21 0) nfet L=3.13E-6 W=8.32E-6
T237 (net54 net8 net8 0) nfet L=0.17E-6 W=4.59E-6
R238 (net53 net47) R=6.3E2
C239 (net29 net12) C=5.5E-13
T240 (net19 net54 net54 0) nfet L=1.47E-6 W=9.31E-6
T241 (net35 net58 net58 0) pfet L=6.17E-6 W=3.31E-6
R242 (net3 net56) R=8.1E5
T243 (net54 net22 net22 0) nfet L=8.49E-6 W=9.05E-6
R244 (net56 net6) R=5.5E0
C245 (net36 vdd!) C=1.7E-6
R246 (net41 net2) R=3.0E3
R247 (net8 net52) R=2.0E0
T248 (net32 net14 net14 0) pfet L=8.43E-6 W=9.41E-6
T249 (net42 net9 net9 0) nfet L=4.88E-6 W=4.14E-6
C250 (net52 vdd!) C=0.3E-11
T251 (net23 0 0 0) pfet L=1.90E-6 W=7.42E-6
C252 (0 net16) C=8.7E-7
T253 (net18 0 0 0) pfet L=6.42E-6 W=7.85E-6
T254 (net14 net45 net45 0) nfet L=7.88E-6 W=8.42E-6
T255 (net8 net57 net57 0) pfet L=6.10E-6 W=6.70E-6
R256 (net21 net34) R=5.0E4
T257 (net48 net30 net30 0) nfet L=4.03E-6 W=3.91E-6
C258 (net2 net42) C=2.0E-13
C259 (net47 net9) C=0.6E-5
T260 (net42 net1 net1 0) nfet L=5.48E-6 W=8.77E-6
T261 (net26 net53 net53 0) pfet L=4.34E-6 W=8.68E-6
T262 (net56 net42 net42 0) pfet L=8.10E-6 W=5.48E-6
C263 (net48 net32) C=0.4E-8
T264 (net32 net13 net13 0) pfet L=0.15E-6 W=5.12E-6
T265 (net18 net26 net26 0) nfet L=6.82E-6 W=6.96E-6
R266 (net54 net31) R=8.0E4
R267 (0 net49) R=5.1E1
T268 (net52 vdd! vdd! 0) pfet L=5.55E-6 W=9.43E-6
C269 (net59 net10) C=3.8E-6
C270 (net40 net41) C=7.4E-6
T271 (net3 net28 net28 0) pfet L=9.98E-6 W=1.09E-6
R272 (0 net15) R=7.3E0
T273 (net44 net14 net14 0) pfet L=1.73E-6 W=5.95E-6
T274 (net7 net30 net30 0) nfet L=2.26E-6 W=3.68E-6
T275 (net37 net20 net20 0) pfet L=8.98E-6 W=4.56E-6
T276 (net58 net30 net30 0) pfet L=6.09E-6 W=1.48E-6
T277 (net39 net18 net18 0) pfet L=8.54E-6 W=2.36E-6
T278 (net45 net48 net48 0) pfet L=0.92E-6 W=3.54E-6
R279 (net54 net44) R=4.1E5
T280 (net58 0 0 0) nfet L=9.97E-6 W=2.34E-6
C281 (net12 net50) C=1.7E-12
R282 (net27 net19) R=8.4E1
R283 (net49 net58) R=2.0E0
T284 (net2 net37 net37 0) nfet L=3.10E-6 W=7.77E-6
T285 (net34 net30 net30 0) nfet L=2.13E-6 W=5.67E-6
T286 (net9 net19 net19 0) pfet L=7.31E-6 W=7.13E-6
T287 (net54 net3 net3 0) nfet L=8.19E-6 W=6.35E-6
R288 (net48 net2) R=1.6E6
R289 (vdd! net29) R=7.8E3
C290 (net47 net1) C=4.4E-6
T291 (net41 net10 net10 0) pfet L=0.84E-6 W=5.24E-6
C292 (0 net27) C=9.3E-9
C293 (net9 net34) C=0.3E-12
R294 (net43 net19) R=9.4E3
R295 (net22 vdd!) R=5.7E2
T296 (net29 net10 net10 0) nfet L=5.11E-6 W=9.58E-6
R297 (net27 0) R=5.7E0
T298 (net31 net50 net50 0) nfet L=2.84E-6 W=1.71E-6
T299 (net48 net16 net16 0) nfet L=2.01E-6 W=6.83E-6
C300 (net46 net8) C=9.8E-12
C301 (net53 net58) C=5.9E-5
C302 (net12 net6) C=7.6E-10
T303 (net6 0 0 0) nfet L=6.23E-6 W=5.16E-6
C304 (net33 net54) C=7.5E-5
C305 (net11 net32) C=0.8E-14
R306 (net43 net30) R=6.2E6
C307 (net29 net42) C=8.7E-10
R308 (net58 net6) R=0.5E0
R309 (net57 vdd!) R=7.8E4
T310 (net36 net16 net16 0) pfet L=0.46E-6 W=9.44E-6
T311 (net22 net24 net24 0) pfet L=9.79E-6 W=2.17E-6
C312 (net44 net37) C=6.8E-11
R313 (vdd! 0) R=3.7E0
R314 (net16 net7) R=6.9E2
C315 (net50 net42) C=1.1E-14
C316 (net5 net30) C=4.5E-12
T317 (net23 vdd! vdd! 0) pfet L=8.15E-6 W=5.75E-6
R318 (net15 net28) R=5.1E5
T319 (net34 0 0 0) nfet L=5.07E-6 W=5.57E-6
T320 (net19 net34 net34 0) pfet L=2.89E-6 W=4.08E-6
T321 (net35 net6 net6 0) nfet L=7.54E-6 W=2.27E-6
T322 (net18 net10 net10 0) pfet L=0.35E-6 W=5.42E-6
R323 (net46 net5) R=4.1E2
R324 (net32 net13) R=3.3E3
T325 (net50 net27 net27 0) pfet L=6.94E-6 W=6.49E-6
T326 (net43 net35 net35 0) nfet L=6.62E-6 W=7.04E-6
C327 (vdd! net21) C=6.9E-12
T328 (net50 net20 net20 0) nfet L=6.05E-6 W=1.20E-6
T329 (net51 net10 net10 0) nfet L=1.03E-6 W=6.53E-6
T330 (0 net5 net5 0) pfet L=8.16E-6 W=2.69E-6
T331 (net24 net14 net14 0) pfet L=1.29E-6 W=6.04E-6
T332 (vdd! net17 net17 0) pfet L=6.82E-6 W=5.24E-6
T333 (net43 net29 net29 0) pfet L=9.43E-6 W=3.77E-6
T334 (net58 net5 net5 0) pfet L=8.88E-6 W=0.51E-6
T335 (net20 net27 net27 0) nfet L=1.33E-6 W=1.76E-6
R336 (net29 net19) R=4.1E3
R337 (0 net29) R=6.5E6
C338 (net9 net20) C=9.5E-12
C339 (net35 net6) C=7.1E-13
R340 (net54 net36) R=1.2E0
C341 (net49 net31) C=4.9E-8
T342 (net49 vdd! vdd! 0) pfet L=9.89E-6 W=7.31E-6
T343 (net48 net30 net30 0) nfet L=7.34E-6 W=7.46E-6
R344 (net25 net30) R=8.6E1
T345 (net10 net18 net18 0) pfet L=7.81E-6 W=1.30E-6
R346 (net9 net10) R=2.6E5
C347 (net44 net38) C=0.8E-11
T348 (net20 vdd! vdd! 0) nfet L=5.56E-6 W=3.23E-6
C349 (net9 net43) C=7.5E-11
R350 (vdd! net48) R=6.7E0
T351 (net23 net31 net31 0) nfet L=5.32E-6 W=6.52E-6
T352 (net23 net23 net23 0) pfet L=3.57E-6 W=2.99E-6
R353 (net41 net5) R=5.4E4
R354 (net50 net3) R=5.2E5
C355 (net6 net15) C=6.1E-14
T356 (net42 net53 net53 0) pfet L=3.23E-6 W=9.97E-6
C357 (net16 net21) C=6.0E-7
T358 (net27 net15 net15 0) pfet L=9.69E-6 W=6.39E-6
C359 (net8 net38) C=4.0E-14
C360 (net50 net52) C=5.5E-6
R361 (net8 net54) R=8.5E5
R362 (net32 net39) R=9.1E4
R363 (net4 net1) R=0.9E4
C364 (net58 net18) C=8.3E-12
T365 (net30 vdd! vdd! 0) pfet L=2.15E-6 W=6.23E-6
T366 (net9 net3 net3 0) pfet L=6.81E-6 W=5.32E-6
T367 (net34 net51 net51 0) pfet L=5.47E-6 W=8.19E-6
C368 (net30 vdd!) C=6.4E-7
T369 (net30 net16 net16 0) nfet L=4.65E-6 W=5.54E-6
R370 (net25 net28) R=6.1E1
T371 (0 net44 net44 0) pfet L=6.35E-6 W=8.99E-6
T372 (net10 net12 net12 0) pfet L=4.46E-6 W=2.85E-6
T373 (net17 net17 net17 0) nfet L=5.06E-6 W=3.64E-6
R374 (net33 net42) R=7.4E4
T375 (net44 net56 net56 0) pfet L=7.14E-6 W=0.66E-6
R376 (net10 net41) R=6.3E4
T377 (vdd! net49 net49 0) nfet L=6.89E-6 W=4.62E-6
T378 (net24 net58 net58 0) nfet L=2.69E-6 W=0.61E-6
T379 (0 net12 net12 0) pfet L=9.50E-6 W=3.22E-6
T380 (net16 net49 net49 0) pfet L=3.23E-6 W=1.79E-6
T381 (net43 net32 net32 0) nfet L=1.47E-6 W=3.16E-6
T382 (net9 net18 net18 0) pfet L=1.83E-6 W=6.55E-6
C383 (net32 net43) C=4.2E-6
T384 (net9 net37 net37 0) pfet L=1.23E-6 W=7.52E-6
R385 (net39 net3) R=8.2E2
C386 (net4 net5) C=4.5E-6
T387 (0 net10 net10 0) pfet L=5.39E-6 W=0.74E-6
R388 (net51 net29) R=0.2E6
R389 (net53 0) R=2.4E6
C390 (0 net39) C=5.8E-14
R391 (net29 0) R=6.8E4
C392 (net7 net18) C=5.9E-10
T393 (net14 net56 net56 0) nfet L=8.04E-6 W=4.76E-6
C394 (net8 net5) C=9.4E-14
C395 (net20 net25) C=8.7E-5
C396 (net2 net28) C=5.0E-10
C397 (net31 net24) C=9.2E-11
C398 (net45 net14) C=4.2E-8
C399 (net9 net42) C=7.1E-5
C400 (net53 net33) C=7.9E-13
R401 (net32 net59) R=9.4E2
C402 (net54 net43) C=4.2E-10
R403 (net59 net3) R=0.9E4
T404 (net19 vdd! vdd! 0) nfet L=9.26E-6 W=6.38E-6
R405 (net9 net56) R=2.4E5
T406 (net17 net54 net54 0) pfet L=0.43E-6 W=7.71E-6
R407 (net2 net32) R=5.4E3
R408 (net16 net20) R=8.1E1
T409 (net21 net8 net8 0) nfet L=8.63E-6 W=8.72E-6
T410 (net58 0 0 0) pfet L=5.15E-6 W=3.77E-6
T411 (net54 net31 net31 0) nfet L=6.42E-6 W=8.47E-6
T412 (net25 net23 net23 0) pfet L=6.58E-6 W=2.22E-6
R413 (net13 net34) R=4.3E2
T414 (net41 net48 net48 0) pfet L=5.01E-6 W=7.63E-6
T415 (net3 net46 net46 0) nfet L=6.20E-6 W=7.66E-6
R416 (net33 net7) R=5.6E1
T417 (net10 net52 net52 0) pfet L=3.35E-6 W=6.33E-6
T418 (net21 net3 net3 0) nfet L=5.68E-6 W=2.21E-6
T419 (net10 net26 net26 0) pfet L=2.17E-6 W=0.73E-6
T420 (net18 net40 net40 0) pfet L=5.35E-6 W=4.97E-6
T421 (net23 net37 net37 0) nfet L=5.99E-6 W=8.78E-6
R422 (net29 net23) R=8.3E0
T423 (net11 vdd! vdd! 0) pfet L=7.83E-6 W=3.93E-6
T424 (net46 net22 net22 0) pfet L=3.16E-6 W=1.69E-6
T425 (net12 net23 net23 0) pfet L=1.28E-6 W=6.78E-6
T426 (net23 net44 net44 0) pfet L=5.58E-6 W=8.07E-6
R427 (net44 net24) R=7.2E6
C428 (net17 net26) C=5.8E-7
T429 (net33 net24 net24 0) nfet L=3.07E-6 W=7.56E-6
R430 (net35 net57) R=9.8E5
T431 (net59 net52 net52 0) pfet L=9.32E-6 W=2.89E-6
C432 (net38 net40) C=6.1E-12
T433 (net48 net33 net33 0) pfet L=2.66E-6 W=9.21E-6
T434 (net3 vdd! vdd! 0) pfet L=5.81E-6 W=5.70E-6
C435 (net5 net40) C=0.7E-14
T436 (vdd! net1 net1 0) nfet L=7.29E-6 W=8.13E-6
T437 (0 net28 net28 0) pfet L=5.64E-6 W=9.80E-6
T438 (net35 net41 net41 0) pfet L=9.77E-6 W=0.75E-6
R439 (net41 net31) R=5.4E5
C440 (net16 net43) C=2.5E-7
T441 (net57 net3 net3 0) pfet L=7.46E-6 W=5.34E-6
C442 (net15 net7) C=0.4E-7
T443 (net31 net24 net24 0) nfet L=2.88E-6 W=9.47E-6
T444 (net33 vdd! vdd! 0) pfet L=6.67E-6 W=6.33E-6
T445 (net49 net30 net30 0) nfet L=7.02E-6 W=8.05E-6
T446 (net13 net12 net12 0) nfet L=1.31E-6 W=8.02E-6
R447 (net5 net47) R=3.9E1
C448 (net58 net26) C=8.5E-7
C449 (net50 vdd!) C=1.8E-12
T450 (net14 net12 net12 0) pfet L=3.22E-6 W=2.49E-6
T451 (net13 net53 net53 0) pfet L=4.98E-6 W=1.42E-6
T452 (net15 net44 net44 0) nfet L=4.95E-6 W=1.48E-6
T453 (net57 net29 net29 0) pfet L=8.90E-6 W=4.19E-6
T454 (net25 net26 net26 0) pfet L=6.79E-6 W=6.77E-6
C455 (net4 net13) C=0.6E-8
C456 (net7 net36) C=8.9E-13
T457 (net14 net57 net57 0) pfet L=7.48E-6 W=6.44E-6
T458 (net21 net52 net52 0) pfet L=6.03E-6 W=8.76E-6
C459 (net1 net22) C=1.7E-6
R460 (net38 vdd!) R=1.5E2
T461 (net15 net45 net45 0) pfet L=2.87E-6 W=9.62E-6
T462 (net32 net29 net29 0) pfet L=9.43E-6 W=8.93E-6
T463 (net25 net48 net48 0) pfet L=6.21E-6 W=5.35E-6
T464 (net7 net41 net41 0) pfet L=6.55E-6 W=5.98E-6
T465 (net31 net7 net7 0) nfet L=5.33E-6 W=1.16E-6
R466 (vdd! net13) R=5.2E6
R467 (net22 net26) R=9.9E6
T468 (net36 net44 net44 0) pfet L=4.76E-6 W=1.37E-6
T469 (net6 net36 net36 0) nfet L=4.30E-6 W=6.49E-6
R470 (net21 net13) R=1.1E2
C471 (net16 net50) C=2.6E-6
C472 (net25 net24) C=3.9E-7
R473 (net39 net17) R=7.3E5
T474 (net31 net32 net32 0) nfet L=3.05E-6 W=8.53E-6
T475 (net11 net10 net10 0) nfet L=4.76E-6 W=0.41E-6
C476 (net47 vdd!) C=1.7E-5
T477 (net51 net31 net31 0) nfet L=4.23E-6 W=9.85E-6
T478 (net53 net2 net2 0) pfet L=4.80E-6 W=2.87E-6
C479 (net33 net58) C=3.3E-6
R480 (net30 net18) R=4.0E2
T481 (net17 net6 net6 0) pfet L=0.99E-6 W=9.32E-6
T482 (net32 net56 net56 0) pfet L=9.35E-6 W=2.07E-6
T483 (net56 net7 net7 0) pfet L=5.89E-6 W=1.76E-6
T484 (net57 vdd! vdd! 0) pfet L=4.12E-6 W=9.46E-6
R485 (net8 net35) R=0.4E2
C486 (net54 net58) C=3.4E-13
T487 (net30 net38 net38 0) pfet L=6.57E-6 W=2.33E-6
R488 (net41 net29) R=2.5E3
T489 (0 net59 net59 0) nfet L=8.76E-6 W=3.63E-6
T490 (net45 net10 net10 0) nfet L=3.58E-6 W=9.26E-6
C491 (net28 net9) C=8.5E-11
T492 (net42 net25 net25 0) pfet L=6.99E-6 W=3.68E-6
T493 (net15 net5 net5 0) nfet L=9.75E-6 W=8.66E-6
T494 (net58 net38 net38 0) nfet L=7.95E-6 W=7.95E-6
R495 (net6 net29) R=6.1E2
R496 (net17 net30) R=6.0E2
C497 (net2 net51) C=6.0E-12
T498 (net6 net51 net51 0) nfet L=4.25E-6 W=7.27E-6
T499 (net54 net18 net18 0) pfet L=4.68E-6 W=8.37E-6
T500 (net46 net40 net40 0) pfet L=9.80E-6 W=8.02E-6
T501 (net26 0 0 0) nfet L=4.81E-6 W=4.81E-6
R502 (net24 net6) R=4.3E1
T503 (net38 net50 net50 0) pfet L=9.76E-6 W=2.77E-6
T504 (vdd! net23 net23 0) nfet L=6.88E-6 W=4.28E-6
R505 (net1 0) R=3.9E2
R506 (net46 net41) R=5.3E4
R507 (net7 net49) R=7.2E5
T508 (net50 net4 net4 0) nfet L=3.66E-6 W=6.81E-6
T509 (net35 net13 net13 0) nfet L=6.15E-6 W=8.13E-6
C510 (net48 net53) C=1.2E-5
T511 (net26 net37 net37 0) nfet L=9.16E-6 W=0.51E-6
C512 (net12 net25) C=3.4E-5
T513 (net32 net50 net50 0) nfet L=8.85E-6 W=8.56E-6
R514 (0 net36) R=3.2E1
T515 (net52 net32 net32 0) nfet L=8.73E-6 W=8.46E-6
T516 (net42 net8 net8 0) pfet L=7.00E-6 W=5.14E-6
T517 (net2 net16 net16 0) pfet L=9.02E-6 W=5.94E-6
T518 (net48 net6 net6 0) nfet L=8.42E-6 W=5.32E-6
T519 (net22 net25 net25 0) pfet L=6.33E-6 W=2.39E-6
R520 (net52 net14) R=3.5E6
T521 (net9 vdd! vdd! 0) pfet L=6.89E-6 W=1.80E-6
R522 (net26 net44) R=8.5E4
T523 (net9 net8 net8 0) nfet L=6.42E-6 W=3.70E-6
C524 (net10 net4) C=0.1E-8
T525 (net21 0 0 0) nfet L=9.15E-6 W=5.17E-6
C526 (net20 net45) C=2.3E-8
C527 (net2 vdd!) C=7.7E-6
T528 (net24 net24 net24 0) pfet L=2.78E-6 W=1.98E-6
R529 (net4 net1) R=2.1E0
R530 (net15 net59) R=4.2E1
R531 (net14 net17) R=0.7E0
T532 (net8 net59 net59 0) pfet L=5.30E-6 W=6.17E-6
R533 (net17 net23) R=1.2E2
R534 (net46 net30) R=9.7E6
T535 (0 net40 net40 0) pfet L=2.50E-6 W=3.91E-6
T536 (net17 net4 net4 0) pfet L=6.72E-6 W=9.90E-6
T537 (net4 net44 net44 0) pfet L=1.75E-6 W=9.96E-6
T538 (net3 net23 net23 0) nfet L=9.64E-6 W=1.93E-6
C539 (net42 0) C=2.5E-9
T540 (net46 net11 net11 0) nfet L=2.03E-6 W=2.25E-6
T541 (net6 net46 net46 0) pfet L=7.54E-6 W=2.28E-6
R542 (net42 net48) R=0.7E6
T543 (net26 net39 net39 0) nfet L=5.05E-6 W=4.69E-6
C544 (net40 0) C=1.4E-6

